Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Amoxicillin
 
Attending: ___.
 
Chief Complaint:
chest pressure
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ year old male with history of HTN, HLD, and GERD presenting 
from urgent care clinic with chest pressure since last night at 
11PM. 

Patient ate dinner and ice cream after and then developed chest 
pressure. The pressure radiated to his back. Possibly some mild 
SOB but no diaphoresis. The pain was worse with deep breaths. He 
thought that it was likely GERD or biliary colic but the pain 
did not resolve. His GERD symptoms never last more than 3 hours. 
Since the pain was still present in the morning so he went to 
see his PCP. EKG was done in the office and showed ~1mm ST 
elevations in the inferior leads (II, III and aVF) that were new 
from prior EKGs (these are completely flat in ECG's from ___ 
and ___ so he was sent to ___ ED.  

In the ED initial vitals were: Initially HR 101 and came down to 
90 165/101 18 98% RA 

- Labs/studies notable for: Troponin negative x2, WBC 7.4, HGB 
13.3, Cr 0.7, K 3.6, VBG with pH 7.39 and PCO2 47 
Tox screen negative  
CXR: No acute cardiopulmonary process.

EKG: sinus, LAD, normal intervals, borderline horizontal ST 
elevation in II, III, aVF. No reciprocal changes.  

Bedside ultrasound was done which showed inferior hypokinesis.

There was initial concern for STEMI given borderline horizontal 
ST elevation in inferior leads without reciprocal changes. The 
case was discussed with the interventional fellow and attending 
and presentation did not meet clear criteria for STEMI. 
Cardiology recommended management for presumed NSTEMI with IV 
heparin and serial ___. Plan to go to cath if he 
worsened. 

Patient was given: aspirin prior to arrival. He was started on a 
nitro gtt, heparin drip gtt and given Gi cocktail with 
___ Hydrox.-Simethicone, donnatal 10 ml, and 
viscous lidocaine. He was given home tamsulosin 0.4mg  

Vitals on transfer: 98.4 87 111/65 17 98% RA   

Upon arrival to the floor, patient reports chest pressure is 
much better. He states that it has slowly decreased throughout 
the course of the day. It felt better after heparin and nitro 
were started and then significantly better after GI cocktail. 
Currently the pain is very mild and he would rate it as a ___. 
No SOB or diaphoresis. Feels well and thinks this is likely GERD 
and doesn't think it could be his heart.  

 
Past Medical History:
1. CARDIAC RISK FACTORS  
- Hypertension  
- Dyslipidemia  
2. CARDIAC HISTORY  
- CABG: None  
- PERCUTANEOUS CORONARY INTERVENTIONS: None  
- PACING/ICD: None  
3. OTHER PAST MEDICAL HISTORY  
- Renal cell carcinoma
- GERD
- Hypothyroidism
- BPH 
- s/p back surgery ___
- s/p partial nephrectomy ___ (___)

 
Social History:
___
Family History:
Paternal grandfather with MI in his ___
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death.  

 
Physical Exam:
ADMISSION:
VS: bp 117/64 HR 89 RR 18 O2 97RA
GENERAL: NAD. alert. anxious. Mood, affect appropriate.  
CARDIAC: RRR, normal S1, S2. No murmurs/rubs/gallops. No 
thrills, lifts. No chest wall tenderness. 
LUNGS: Clear to auscultation bilaterally. Resp unlabored, no 
accessory muscle use. No crackles, wheezes or rhonchi.  
ABDOMEN: Soft, NTND.   
EXTREMITIES: No edema.    
PULSES: Distal pulses palpable and symmetric  
 
DISCHARGE:  
VS: 97.8 107/61 80 18 100% RA
GENERAL: NAD. alert. Mood, affect appropriate.  
HEENT: anicteric sclera, MOM, ___, oropharynx clear
NECK: supple, no elevated JVD
CARDIAC: RRR, normal S1, S2. No murmurs/rubs/gallops. No 
thrills, lifts.
LUNGS: Clear to auscultation bilaterally. Resp unlabored, no 
accessory muscle use. No crackles, wheezes or rhonchi.  
ABDOMEN: Soft, NTND.   
EXTREMITIES: No cyanosis or edema.    
PULSES: Distal pulses palpable and symmetric  
 
 
Pertinent Results:
ADMISSION LABS:
___ 01:45PM BLOOD ___ 
___ Plt ___
___ 01:45PM BLOOD ___ ___
___ 01:45PM BLOOD ___
___ 01:45PM BLOOD ___
___ 01:45PM BLOOD ___
___ 01:45PM BLOOD ___
___ 01:45PM BLOOD ___ 
___
___ 01:56PM BLOOD ___ Base 
___ TOP
___ 01:56PM BLOOD ___ 
___
___ 01:56PM BLOOD ___
 
PERTINENT STUDIES:
___ 01:45PM BLOOD ___
___ 01:45PM BLOOD cTropnT-<0.01
___ 07:36PM BLOOD cTropnT-<0.01
 
___ CXR (PORTABLE)
FINDINGS:  
Lung volumes are relatively low.  Streaky retrocardiac opacity 
is most likely atelectasis.  Lungs are otherwise clear.  The 
cardiomediastinal silhouette is within normal limits.  No acute 
osseous abnormalities. 
IMPRESSION: No acute cardiopulmonary process. 
 
___ TTE
The left atrium and right atrium are normal in cavity size. No 
atrial septal defect is seen by 2D or color Doppler. Normal left 
ventricular wall thickness, cavity size, and regional/global 
systolic function (biplane LVEF = 63 %). There is no ventricular 
septal defect. Right ventricular chamber size and free wall 
motion are normal. The diameters of aorta at the sinus, 
ascending and arch levels are normal. The aortic valve leaflets 
(3) appear structurally normal with good leaflet excursion and 
no aortic stenosis. Trace aortic regurgitation is seen. The 
mitral valve appears structurally normal with trivial mitral 
regurgitation. There is no mitral valve prolapse. The pulmonary 
artery systolic pressure could not be determined. There is no 
pericardial effusion. 
IMPRESSION: Normal biventricular cavity sizes with preserved 
regional and global biventricular systolic function. No 
structural heart disease or pathologic flow identified.
 
DISCHARGE LABS:
___ 08:35AM BLOOD ___ 
___ Plt ___
___ 08:35AM BLOOD ___ ___
___ 08:35AM BLOOD ___ 
___
___ 08:35AM BLOOD ___
___ 08:35AM BLOOD ___ 
___
___ 08:35AM BLOOD ___ year old male with history of HTN, HLD, and GERD presented 
from urgent care clinic with atypical chest pain for over 20 
hours. Found to have new ~1mm STE in II, III, aVF and possible 
inferior hypokinesis on bedside U/S concerning for MI. Troponins 
were negative x 2. Managed medically aspirin, heparin drip, 
nitro drip, full dose atorvastatin 80mg. Catheterization was 
deferred given resolution of symptoms and negative troponin. TTE 
showed normal biventricular cavity size and function. Patient's 
symptoms were thought to be more related to his dysphagia / 
globus sensation and he was discharged with plan for GI follow 
up and consideration of EGD. Recent video fluoroscopic 
evaluation of swallow function was normal.
 
# Chest Pain: patient with atypical chest pressure that started 
day before presentation. Found to have new ~1mm STE in II, III, 
aVF and possible inferior hypokinesis on bedside U/S concerning 
for MI. Trops negative x 2. TTE with normal biventricular cavity 
size and function. Low concern for type I event and given 
prolonged symptoms with negative trops, cardiac catheterization 
was deferred. Patient's symptoms were attributed to his 
dysphagia / globus sensation. 
 
# Dysphagia
Patient reports dysphagia to pills and some solids but not 
liquids and without odynophagia with a recent fluoroscopic 
evaluation of swallow that was normal. Given long standing GERD 
and globus sensation he could have developed a stricture that 
was not detected or some form of esophageal dysmotility that 
could mimic angina, as it also could be improved with nitrates. 
Patient was tolerating regular diet and was discharged with GI 
follow up for further workup.
 
CHRONIC ISSUES:
 
# HTN: held home HCTZ but restarted on discharge
 
# HLD: increased atorvastatin to 80mg 
 
# GERD: continued home pantoprazole
 
# Hypothyroidism: continued home levothyroxine 
 
# Constipation: continued home Colace, miralax 
 
# BPH: continue home tamsulosin, finasteride 
 
 
TRANSITIONAL ISSUES
===================
[ ] follow up with GI for further evaluation of dysphagia 
 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. LORazepam 0.5 mg PO QHS:PRN insomnia 
3. Finasteride 5 mg PO DAILY 
4. Simethicone ___ mg PO QID:PRN dyspepsia 
5. Atorvastatin 20 mg PO QPM 
6. Hydrochlorothiazide 12.5 mg PO DAILY 
7. Levothyroxine Sodium 224 mcg PO DAILY 
8. Polyethylene Glycol 17 g PO BID:PRN constipation 
9. Tamsulosin 0.4 mg PO QHS 
10. Pantoprazole 40 mg PO Q24H 
11. Docusate Sodium 100 mg PO BID 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Atorvastatin 20 mg PO QPM  
3.  Docusate Sodium 100 mg PO BID  
4.  Finasteride 5 mg PO DAILY  
5.  Hydrochlorothiazide 12.5 mg PO DAILY  
6.  Levothyroxine Sodium 224 mcg PO DAILY  
7.  LORazepam 0.5 mg PO QHS:PRN insomnia  
8.  Pantoprazole 40 mg PO Q24H  
9.  Polyethylene Glycol 17 g PO BID:PRN constipation  
10.  Simethicone ___ mg PO QID:PRN dyspepsia  
11.  Tamsulosin 0.4 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# Atypical Chest pain
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear ___

___ was a pleasure taking care of you at the ___ 
___!  

Why was I admitted to the hospital?  
-You were admitted because you had chest pain that was initially 
concerning for a heart problem

What happened while I was in the hospital?  
- You had labs that showed no evidence of heart muscle damage 
and an echocardiogram that showed no evidence of abnormal heart 
function

What should I do after leaving the hospital?  
- follow up with your PCP
- follow up with the gastroenterologist
- continue to take your medications

Thank you for allowing us to be involved in your care, we wish 
you all the best!  

Your ___ Healthcare Team  

 
Followup Instructions:
___